US04840948
1-(4-Hydroxystyryl)-4-methyl-7,8-dimethoxy-5H-2,3-benzodiazepine
4.5 g (10.6 mM) of 1-(4-hydroxystyryl)-3-methyl-6,7-dimethoxy-2-benzopyrylium perchlorate (m.p. 298° to 300° C. d.) are suspended in 90 ml of 99.5% ethanol, 1.6 ml (31.8 mM) of 100% hydrazine hydrate are added, and the solution is stirred for 2 hours at room temperature. After evaporation at reduced pressure the residue is suspended in 100 ml of water, filtered, washed with 3×5 ml of water, the crude product is resuspended in hot water, filtered, washed with 3×5 ml of water and dried at 80° to 100° C. Yield 2.65g, m.p. 205° to 207° C. (decomp.). This crude product is purified by refluxing in 12 ml of ethanol and subsequent drying. Yield 2.37 g (66.4%), m.p. 209° to 211° C. (decomp.).

reactant | 1-(4-hydroxystyryl)-3-methyl-6,7-dimethoxy-2-benzopyrylium perchlorate | 10.6 mM, 4.5 g | Cl(=O)(=O)(=O)[O-].OC1=CC=C(C=C[CH2+]2OC(=CC3=C2C=C(C(=C3)OC)OC)C)C=C1
reactant | hydrazine hydrate | 31.8 mM, 1.6 ml | O.NN
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 1-(4-Hydroxystyryl)-4-methyl-7,8-dimethoxy-5H-2,3-benzodiazepine | OC1=CC=C(C=CC2=NN=C(CC3=C2C=C(C(=C3)OC)OC)C)C=C1 | C20H20N2O3
